US09328118B2
1-Methyl-L-proline (33 mg), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (85 mg), and N,N-diisopropylethylamine (64 μL) were added to a solution of 4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(tetrahydrofuran-2-yl methyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (80 mg) in DMF (1.6 mL) at room temperature, and the mixture was stirred at the same temperature overnight. After the reaction mixture was diluted with EtOAc, a saturated aqueous NaHCO3 solution and water were added thereto, then extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (Hex:CHCl3=50:50 to 0:100). The obtained product was dissolved in EtOAc (1 mL), then a 4 M solution of hydrogen chloride in EtOAc (31 μL) was added thereto at room temperature, and the mixture was stirred at the same temperature for 1 hour. The precipitate was collected by filtration, whereby 4-[4-{2-[1-(1-methyl-L-prolyl)piperidin-4-yl]ethoxy}-3-(trifluoromethyl)phenyl]-7-(tetrahydrofuran-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (77 mg) was obtained as a pale yellow solid.

reactant | 1-Methyl-L-proline | 33 mg | CN1[C@H](C(=O)O)CCC1 | C6H11NO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 85 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 64 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(tetrahydrofuran-2-yl methyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 80 mg | Cl.N1CCC(CC1)CCOC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)CC2OCCC2)C(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-[4-{2-[1-(1-methyl-L-prolyl)piperidin-4-yl]ethoxy}-3-(trifluoromethyl)phenyl]-7-(tetrahydrofuran-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 77 mg | Cl.CN1[C@H](C(=O)N2CCC(CC2)CCOC2=C(C=C(C=C2)C=2C3=C(N=C(N2)C#N)N(C=C3)CC3OCCC3)C(F)(F)F)CCC1 | InChI=1S/C32H37F3N6O3.ClH/c1-39-12-2-5-26(39)31(42)40-13-8-21(9-14-40)11-17-44-27-7-6-22(18-25(27)32(33,34)35)29-24-10-15-41(20-23-4-3-16-43-23)30(24)38-28(19-36)37-29;/h6-7,10,15,18,21,23,26H,2-5,8-9,11-14,16-17,20H2,1H3;1H/t23?,26-;/m0./s1
